US07645771B2
Phenyl N-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboximidoate (100 mg, 0.175 mmol) and a solution of ammonia in methanol (2 mL, 1.4 M) was stirred at ambient temperature for 20 hours. After evaporation of the excess ammonia and the solvent, the residue was subject to flash chromatography (Mega Bond Elut Si, MeOH/EtOAc, 10% to 40%) to afford N′-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboximidamide as amorphous solid (79 mg, 91%). 1H NMR (CDCl3, 300 MHz): δ 7.68-7.65 (m, 1H), 7.42-7.34 (m, 2H), 7.30-7.24 (m, 4H), 7.20-7.18 (m, 2H), 6.11 (s, 2H), 4.65 (t, J=8.5 Hz, 1H), 3.82-3.78 (m, 2H), 3.27-3.20 (m, 4H), 2.53 (s, 3H), 2.45-2.25 (m, 4H), 1.96-1.84 (m, 10H), 1.64 (d, J=7.5 Hz, 2H). HRMS m/z (M+H)+ calcd: 496.3189, obsd: 496.3181.

reactant | Phenyl N-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboximidoate | 0.175 mmol, 100 mg | C(#N)N=C(OC1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C36H40N6O
reactant | ammonia | N | H3N
solvent | methanol | 1.4 M, 2 mL | CO | CH4O
product | N′-cyano-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidine-1-carboximidamide | 79 mg, 91% | C(#N)N=C(N)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C30H37N7
